US04590271
A. 2,4-Diamino-5-[3,4-dimethoxy-5-(2-propynyloxy)benzyl]pyrimidine
The title compound was prepared from 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine and propargyl chloride by the procedure of Example 1A. Recrystallization from 95% ethanol gave off-white needles (73%); mp 160°-161°. Anal. Calcd for C16H18N4O3 : C, 61.13; H, 5.77; N, 17.82. Found: C, 60.96; H, 5.80; N, 17.75.

reactant | 2,4-diamino-5-(3-hydroxy-4,5-dimethoxybenzyl)pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OC)OC)O | C13H16N4O3
reactant | propargyl chloride | C(C#C)Cl | C3H3Cl
product | 2,4-Diamino-5-[3,4-dimethoxy-5-(2-propynyloxy)benzyl]pyrimidine | NC1=NC=C(C(=N1)N)CC1=CC(=C(C(=C1)OCC#C)OC)OC | C16H18N4O3
